US05821243
(b) Preparation of 3-methyl-4-(3-acetyl-5-oxo-2-pyrazolin-1-yl)benzoic acid
To a solution of a 5 g. (34 mmoles) of 3-methyl-4-[N'-(2-ethoxycarbonyl-1-acetylethylidene)hydrazino]benzoic acid in 25 ml. of ethanol and 25 ml. of water was added with stirring 34.3 ml. of a 1 M sodium carbonate solution. The mixture was stirred at room temperature for 24 hours. The resulting mixture was acidified to pH 3 with 6 M hydrochloric acid and the resulting solid was collected by filtration, washed with water and dried. The 3-methyl-4-(3-acetyl-5-oxo-2-pyrazolin-1-yl)benzoic acid has a melting point of>2500C.

reactant | 3-methyl-4-[N'-(2-ethoxycarbonyl-1-acetylethylidene)hydrazino]benzoic acid | 34 mmoles | CC=1C=C(C(=O)O)C=CC1NN=C(CC(=O)OCC)C(C)=O | C15H18N2O5
reactant | ethanol | C(C)O | C2H6O
reactant | sodium carbonate | 1 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | water | O | H2O
product | 3-methyl-4-(3-acetyl-5-oxo-2-pyrazolin-1-yl)benzoic acid | CC=1C=C(C(=O)O)C=CC1N1N=C(CC1=O)C(C)=O | C13H12N2O4
